US04536578
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(4-methoxyphenyl)piperazine oxalate
To 40 ml of dimethylformamide was added 4.3 g 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 4.0 g of 4-(4-methoxyphenyl)piperazine dihydrochlorde, 10.0 g of milled potassium carbonate, and 0.01 g potassium iodide. The mixture was stirred at 90° C. for two hrs, cooled, filtered, and the filtrate evaporated to an oil. The oil was stirred with 100 ml of water and extracted with ether. The ether extract was washed with water (2×), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, ethereal oxalic acid was added. The precipitate was collected and dried to yield 3.0 g (44%) of product. Two recrystallizations from ethyl acetate/methanol/ether (10:1:5) gave the analytical sample, mp 188°-189° C. (dec).

reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 4.3 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | 4-(4-methoxyphenyl)piperazine dihydrochlorde | 4.0 g | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
catalyst | potassium iodide | 0.01 g | [I-].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(4-methoxyphenyl)piperazine oxalate | 3.0 g, 44% | C(C(=O)O)(=O)O.FC1=CC2=C(C(=NO2)CCCN2CCN(CC2)C2=CC=C(C=C2)OC)C=C1 | InChI=1S/C21H24FN3O2.C2H2O4/c1-26-18-7-5-17(6-8-18)25-13-11-24(12-14-25)10-2-3-20-19-9-4-16(22)15-21(19)27-23-20;3-1(4)2(5)6/h4-9,15H,2-3,10-14H2,1H3;(H,3,4)(H,5,6)
